US05591862
According to the method described for Reference Example 23, methyl (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-butenoate was subjected to reduction with diisobutylaluminum hydride to give (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-buten-1-ol. Recrystallization from ethyl acetate--hexane gave colorless prisms, m.p.126°-127° C.

reactant | methyl (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-butenoate | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)/C(=C/C(=O)OC)/C | C22H21NO4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-buten-1-ol | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)/C(=C/CO)/C | C21H21NO3
